US08378104B2
2-(1-benzothiophen-7-yl)-4-[1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine
A solution of 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine (42.0 mg, 0.14 mmol) and 2-(1-benzothiophen-7-yl)-4-iodofuro[2,3-c]pyridin-7-amine (47.1 mg, 0.12 mmol) in 1,4-dioxane (0.81 mL) and H2O (0.2 mL) was charged with potassium carbonate (25 mg, 0.18 mmol) and (1,1′-bis(diphenylphosphino)ferrocene)palladium dichloride (0.9 mg, 0.01 mmol) under an atmosphere of nitrogen. The mixture was irradiated in a Biotage microwave reactor at 100° C. for 100 min. The reaction mixture was concentrated in vacuo to a solid. Purification by flash chromatography (0 to 10% 7 N NH3/MeOH:EtOAc afforded 17 mg (33%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 8.11 (d, J=7.58 Hz, 1H), 8.07 (s, 1H), 7.93 (d, J=8.08 Hz, 1H), 7.88 (d, J=7.07 Hz, 2H), 7.70 (d, J=5.31 Hz, 1H), 7.45-7.55 (m, 3H), 4.27 (dt, J=15.35, 7.86 Hz, 1H), 3.06 (d, J=11.62 Hz, 2H), 2.38 (s, 3H), 2.25-2.34 (m, 2H), 2.13-2.22 (m, 4H); MS (ESI): 431.17 [M+H]+; HPLC tR=0.90 min (TOF: polar—3 min).

reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | 0.14 mmol, 42.0 mg | CN1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
reactant | 2-(1-benzothiophen-7-yl)-4-iodofuro[2,3-c]pyridin-7-amine | 0.12 mmol, 47.1 mg | S1C=CC2=C1C(=CC=C2)C2=CC=1C(=C(N=CC1I)N)O2 | C15H9IN2OS
reactant | potassium carbonate | 0.18 mmol, 25 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.81 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.2 mL | O | H2O
product | 2-(1-benzothiophen-7-yl)-4-[1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine | 17 mg, 33% | S1C=CC2=C1C(=CC=C2)C2=CC=1C(=C(N=CC1C=1C=NN(C1)C1CCN(CC1)C)N)O2 | C24H23N5OS
